### PR TITLE
Add a compatibility module for ssrnum and MathComp 1.7.0 (part of #270)

### PR DESCRIPTION
**Pull request by pi8027**
... and fix ssrint, rat, and intdiv by using that module.

### CODE REVIEW

**Comment by pi8027** [comment]
I also reactivated the ordering notations in `ring_scope` to solve some technical issues.

**Comment by CohenCyril** [comment]
should I merge into #270 now?

**Comment by pi8027** [comment]
@CohenCyril The problem of subterm selections in `rewrite` isn't solved yet. If it is acceptable, please merge.

**Comment by CohenCyril** [comment]
> @CohenCyril The problem of subterm selections in `rewrite` isn't solved yet. If it is acceptable, please merge.

ok, then please use a pattern `[X in X && _]` instead of names.

File: mathcomp/algebra/intdiv.v [hunk 1]
```diff
@@ -212,7 +212,8 @@ Qed.
 Lemma ltz_divLR m n d : d > 0 -> ((m %/ d)%Z < n) = (m < n * d).
 Proof.
 move=> d_gt0; apply/idP/idP.
-  by rewrite -lez_addr1 -(ler_pmul2r d_gt0); apply: ltr_le_trans (ltz_ceil _ _).
+  by rewrite -[_ < n]lez_addr1 -(ler_pmul2r d_gt0);
```
Comment (pi8027) [inline mathcomp/algebra/intdiv.v]: (mark for the subterm selection problem)

File: mathcomp/algebra/intdiv.v [hunk 2]
```diff
@@ -867,8 +868,9 @@ Qed.
 Lemma dvdp_rat_int p q : (pZtoQ p %| pZtoQ q) = (p %| q).
 Proof.
 apply/dvdpP/Pdiv.Idomain.dvdpP=> [[/= r1 Dq] | [[/= a r] nz_a Dq]]; last first.
-  exists (a%:~R^-1 *: pZtoQ r); rewrite -scalerAl -rmorphM -Dq.
-  by rewrite -{2}[a]intz scaler_int rmorphMz -scaler_int scalerK ?intr_eq0.
+  exists (a%:~R^-1 *: pZtoQ r).
+  by rewrite -scalerAl -rmorphM -Dq -{2}[a]intz scaler_int rmorphMz
+             -[X in _ *: X]scaler_int scalerK ?intr_eq0.
```
Comment (pi8027) [inline mathcomp/algebra/intdiv.v]: (mark for the subterm selection problem)

File: mathcomp/algebra/ssrint.v [hunk 3]
```diff
@@ -1671,7 +1676,7 @@ wlog le_m31 : m1 m3 / (m3 <= m1)%R.
   by rewrite (addrC `|_|)%R orbC !(distrC m1) !(distrC m3).
 rewrite ger0_norm ?subr_ge0 // orb_idl => [|/andP[le_m12 le_m23]]; last first.
   by have /eqP->: m2 == m3; rewrite ?lerr // eqr_le le_m23 (ler_trans le_m31).
-rewrite -{1}(subrK m2 m1) -addrA -subr_ge0 andbC -subr_ge0.
+rewrite -{1}(subrK m2 m1) -addrA -subr_ge0 andbC -[X in X && _]subr_ge0.
```
Comment (pi8027) [inline mathcomp/algebra/ssrint.v]: (mark for the subterm selection problem)

**Comment by pi8027** [comment]
@CohenCyril I did. The problem appears the above 3 places.
